US06858651B2
To a suspension of 0.58 g (55% in mineral oil, 13 mmol, 1.2 eq) sodium hydride in 20 ml DMF, a solution of 4.2 g (11 mmol) trans-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-carbamic acid benzyl ester in 10 ml DMF was added slowly. The temperature was raised slowly to 50° C. and kept at that temperature for 1 h. At RT 0.9 ml (14 mmol; 1.3 eq) iodomethane were added and the mixture stirred over night. Additional 0.58 g (55% in mineral oil, 13 mmol, 1.2 eq) sodium hydride and 0.9 ml (14 mmol; 1.3 eq) iodomethane were added and the reaction mixture was stirred for 1 day. Aqueous NH4Cl solution was added and the inorganic phase was extracted with ether, washed with brine, dried over Na2SO4 and evaporated yielding 3.1 g (72%) trans-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-methyl-carbamic acid benzyl ester.

reactant | sodium hydride | 13 mmol, 0.58 g, 1.2 eq | [H-].[Na+]
reactant | trans-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-carbamic acid benzyl ester | 11 mmol, 4.2 g | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)O[Si](C)(C)C(C)(C)C)=O | C20H33NO3Si
reactant | iodomethane | 14 mmol, 0.9 ml, 1.3 eq | IC | CH3I
reactant | sodium hydride | 13 mmol, 0.58 g, 1.2 eq | [H-].[Na+]
reactant | iodomethane | 14 mmol, 0.9 ml, 1.3 eq | IC | CH3I
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | trans-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-methyl-carbamic acid benzyl ester | 3.1 g, 72% | C(C1=CC=CC=C1)OC(N(C)[C@@H]1CC[C@H](CC1)O[Si](C)(C)C(C)(C)C)=O | C21H35NO3Si
